US06340661B1
This ligand was prepared according to a modified procedure described by Bernal et al in J. Chem. Soc., Dalton Trans, 22, 3667 (1995). First N,N′-bis(pyridin-2ylmethyl)-ethanediamine (bispicen) was synthesised by the following procedure. Ethylenediamine (26 ml, 0.38 mol) was dissolved in 200 ml dry methanol. To this mixture 74 ml (0.76 mol) pyridincarboxaldehyde was added. The mixture was refluxed for 2 h, after which the mixture was left to cool to RT and in small portions 40 g of NaBH4 was added. The mixture was subsequently stirred for 16 h at RT. The methanol was evaporated and 500 ml of water was added. The aqueous mixture was extracted with three portions of dichloromethane (100 ml) and the dichloromethane solution was dried over sodium sulphate, filtered off and the solvent was removed. The dark oil containing N,N′-bis(pyridin-2ylmethyl)-ethanediamine (73.7 g; 81%) was analysed by NMR and used without further purification. 1H-nmr (CDCl3): δ2.20 (br, NH); 2.78 (s, 4H); 3.85 (s, 4H); 7.00-7.40 (m, 4H); 7.58 (m, 2H); 8.45 (m, 2H).

reactant | Ethylenediamine | 0.38 mol, 26 ml | C(CN)N | C2H8N2
reactant | pyridincarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | NaBH4 | 40 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | N,N′-bis(pyridin-2ylmethyl)-ethanediamine | N1=C(C=CC=C1)CNC(C)NCC1=NC=CC=C1 | C14H18N4
